US06331593B1
To a solution composed of tetrahydrofuran (31.5 ml), hexane (139 ml) and 1-bromo-3-tert-butyl-2-methoxy-5-methylbenzene (45 g) synthesized in the above-described procedure (2) was added a 1.6 mol/liter hexane solution (115 ml) of n-butyllithium dropwise at −40° C. over 20 minutes. The resultant mixture was kept at −40° C. for 1 hour, and tetrahydrofuran (31.5 ml) was then added dropwise. To a solution composed of dichlorodimethylsilane (131 g) and hexane (306 ml) was added the above-described mixture dropwise at −40° C. The resultant mixture was allowed to warm to room temperature over 2 hours, and further stirred at room temperature for 12 hours. The solvent and excess dichlorodimethylsilane were removed under reduced pressure from the reaction mixture, hexane-soluble components were extracted from the residue with hexane, and the solvent was distilled off from the resultant hexane solution to obtain 41.9 g of (3-tert-butyl-2-methoxy-5-methylphenyl)chlorodimethylsilane as a pale yellow oil. Yield was 84%.

reactant | 1-bromo-3-tert-butyl-2-methoxy-5-methylbenzene | 45 g | BrC1=C(C(=CC(=C1)C)C(C)(C)C)OC | C12H17BrO
reactant | n-butyllithium | C(CCC)[Li]
reactant | dichlorodimethylsilane | 131 g | Cl[Si](C)(C)Cl | C2H6Cl2Si
solvent | hexane | 306 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 31.5 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6 mol/liter, 115 ml | CCCCCC | C6H14
solvent | hexane | 139 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 31.5 ml | O1CCCC1 | C4H8O
product | (3-tert-butyl-2-methoxy-5-methylphenyl)chlorodimethylsilane | 41.9 g, Yield was 84% | C(C)(C)(C)C=1C(=C(C=C(C1)C)[Si](C)(C)Cl)OC | C14H23ClOSi
